US08278302B2
3-Chlorocarbonyl-5-nitro-benzoic acid ethyl ester
To a solution of 5-nitroisophtalic acid monoethyl ester (80 g) in DCM (700 ml) at 25° C. was added 2M oxalyl chloride solution in DCM (63 ml), and DMF (5 ml). The reaction was stirred for 2 h and then concentrated in vacuum. The residue was triturated with toluene and again concentrated in vacuum leaving the title compound (60 g). Rt=1.40 min for derivatised methylester (method D).

reactant | 5-nitroisophtalic acid monoethyl ester | 80 g | C(C)OC(C1=CC(C(=O)O)=CC(=C1)[N+](=O)[O-])=O | C10H9NO6
reactant | oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DCM | 700 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 63 ml | C(Cl)Cl | CH2Cl2
product | 3-Chlorocarbonyl-5-nitro-benzoic acid ethyl ester | 60 g | C(C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)Cl)=O | C10H8ClNO5
